### PR TITLE
[Merged by Bors] - feat(CategoryTheory): `inv (μ F X Y) = δ F X Y`

### PR DESCRIPTION
**Pull request by YaelDillies**
and other basic lemmas

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Braided/Basic.lean [hunk 1]
```diff
@@ -715,6 +715,28 @@ theorem associator_monoidal (X₁ X₂ X₃ Y₁ Y₂ Y₃ : C) :
           rw [braiding_tensor_right_hom]; monoidal
     _ = _ := by rw [whisker_exchange, braiding_tensor_left_hom]; monoidal
 
+@[reassoc]
+lemma tensorμ_tensorHom_μ_μ_μ (F : C ⥤ D) [F.LaxBraided] (W X Y Z : C) :
+    tensorμ (F.obj W) (F.obj X) (F.obj Y) (F.obj Z) ≫
+      (μ F W Y ⊗ₘ μ F X Z) ≫ μ F (W ⊗ Y) (X ⊗ Z)
+      = (μ F W X ⊗ₘ μ F Y Z) ≫ μ F (W ⊗ X) (Y ⊗ Z) ≫ F.map (tensorμ W X Y Z) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided/Basic.lean]:
```suggestion
      (μ F W Y ⊗ₘ μ F X Z) ≫ μ F (W ⊗ Y) (X ⊗ Z) =
      (μ F W X ⊗ₘ μ F Y Z) ≫ μ F (W ⊗ X) (Y ⊗ Z) ≫ F.map (tensorμ W X Y Z) := by
```

File: Mathlib/CategoryTheory/Monoidal/Functor.lean [hunk 2]
```diff
@@ -120,6 +120,38 @@ theorem associativity_inv (X Y Z : C) :
   rw [Iso.eq_inv_comp, ← associativity_assoc, ← F.map_comp, Iso.hom_inv_id,
     F.map_id, comp_id]
 
+@[reassoc]
+lemma tensorHom_ε_left_μ {X : C} {Y : D} (f : Y ⟶ F.obj X) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Functor.lean]: Is not this better?
```suggestion
lemma ε_tensorHom_comp_μ {X : C} {Y : D} (f : Y ⟶ F.obj X) :
```

File: Mathlib/CategoryTheory/Monoidal/Functor.lean [hunk 3]
```diff
@@ -120,6 +120,38 @@ theorem associativity_inv (X Y Z : C) :
...
+    (ε F ⊗ₘ f) ≫ μ F (𝟙_ C) X = 𝟙_ D ◁ f ≫ (λ_ (F.obj X)).hom ≫ F.map (λ_ X).inv := by
+  rw [left_unitality]; simp [tensorHom_def']
+
+@[reassoc]
+lemma tensorHom_ε_right_μ {X : C} {Y : D} (f : Y ⟶ F.obj X) :
+    (f ⊗ₘ ε F) ≫ μ F X (𝟙_ C) = f ▷ 𝟙_ D ≫ (ρ_ (F.obj X)).hom ≫ F.map (ρ_ X).inv := by
+  rw [right_unitality]; simp [tensorHom_def]
+
+@[reassoc]
+lemma wiskerLeft_left_unitality {X : C} {Y : D} (f : Y ⟶ F.obj X) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Functor.lean]:
```suggestion
lemma id_whiskerLeft_comp_leftUnitor_hom {X : C} {Y : D} (f : Y ⟶ F.obj X) :
```

File: Mathlib/CategoryTheory/Monoidal/Functor.lean [hunk 4]
```diff
@@ -120,6 +120,38 @@ theorem associativity_inv (X Y Z : C) :
...
+    𝟙_ D ◁ f ≫ (λ_ (F.obj X)).hom = (ε F ⊗ₘ f) ≫ μ F (𝟙_ C) X ≫ F.map (λ_ X).hom := by
+  rw [left_unitality]; simp [tensorHom_def']
+
+@[reassoc]
+lemma wiskerRight_right_unitality {X : C} {Y : D} (f : Y ⟶ F.obj X) :
+    f ▷ 𝟙_ D ≫ (ρ_ (F.obj X)).hom = (f ⊗ₘ ε F) ≫ μ F X (𝟙_ C) ≫ F.map (ρ_ X).hom := by
+  rw [right_unitality]; simp [tensorHom_def]
+
+@[reassoc]
+lemma whiskerRight_μ_μ (X Y Z : C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Functor.lean]:
```suggestion
lemma μ_whiskerRight_comp_μ (X Y Z : C) :
```

**Comment by joelriou** [comment]
Could you fix the names? and do `s/wisker/whisker/`

File: Mathlib/CategoryTheory/Monoidal/Functor.lean [hunk 5]
```diff
@@ -267,6 +299,28 @@ theorem associativity_inv (X Y Z : C) :
   rw [← Category.assoc, Iso.comp_inv_eq, Category.assoc, Category.assoc, associativity,
     ← Category.assoc, ← F.map_comp, Iso.inv_hom_id, F.map_id, id_comp]
 
+@[reassoc]
+lemma δ_tensorHom_η_left {X : C} {Y : D} (f : F.obj X ⟶ Y) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Functor.lean]:
```suggestion
lemma δ_comp_η_tensorHom {X : C} {Y : D} (f : F.obj X ⟶ Y) :
```
and similarly for the lemmas below.

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Functor.lean]: Ah sorry! I missed that one

**Comment by joelriou** [comment]
Thanks!

bors merge
